US06391874B1
(1-Benzyl-1H-indazol-5-yl)-(7-(5-methyl-[1,3,4]oxadiazol-2-yl)-quinazolin-4-yl)- amine hydrochloride
The crude solid 4-Chloro-7-(5-Methyl-[1,3,4]oxadiazol-2-yl)-quinazoline was suspended in dry acetonitrile. 1-Benzyl-1H-indazol-5-ylamine (0.03 g) was added and the mixture heated at reflux for 18 hours under nitrogen (Procedure A). The mixture was cooled and the title compound collected by filtration; δH [2H6]DMSO 11.82(1H,bs), 9.08(1H,s), 8.99(1H,s), 8.47(1H,s), 8.44(1H,d), 8.37(1H,s), 8.17(1H,s), 7.89(1H,d), 7.72(1H,d), 7.35(5H,m), 5.80(2H,s) 2.72 (3H,s); m/z (M+1+) 434.

reactant | 4-Chloro-7-(5-Methyl-[1,3,4]oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC(=CC=C12)C=1OC(=NN1)C | C11H7ClN4O
reactant | 1-Benzyl-1H-indazol-5-ylamine | 0.03 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)N | C14H13N3
solvent | acetonitrile | C(C)#N | C2H3N
product | (1-Benzyl-1H-indazol-5-yl)-(7-(5-methyl-[1,3,4]oxadiazol-2-yl)-quinazolin-4-yl)- amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)C=1OC(=NN1)C | InChI=1S/C25H19N7O.ClH/c1-16-30-31-25(33-16)18-7-9-21-22(12-18)26-15-27-24(21)29-20-8-10-23-19(11-20)13-28-32(23)14-17-5-3-2-4-6-17;/h2-13,15H,14H2,1H3,(H,26,27,29);1H
